US06982278B2
4-(2-Benzyloxyethyl)-2-phenyloxazole
To a solution of 2-(2-phenyloxazol-4-yl)-ethanol (Eli Lilly and Co. WO 9613264)(500 mg, 2.64 mmol) in THF (8 mL) was added NaH (215 mg, 5.28 mmol), followed by tetrabutylammonium iodide (96 mg, 0.26 mmol). After 10 min, benzyl bromide (677 mg, 3.96 mmol, 0.47 mL) was added via syringe. After 3 h, the reaction was partitioned between H2O (20 mL) and diethyl ether (20 mL). The organic phase was washed with brine and then the combined aqueous phases were back extracted with ether (50 mL). The organic phases were dried (MgSO4), filtered and concentrated. The product was purified by flash chromatography (80 mL SiO2, 25% EtOAc/hexanes) and obtained as a colorless oil (690 mg, 93%): Rf=0.46 in 25% EtOAc/hexanes; 1H NMR (500 MHz, CDCl3) δ 8.03-8.01 (m, 2H), 7.52 (t, J=1.0 Hz, 1H), 7.45-7.41 (m, 3H), 7.34-7.33 (m, 3H), 7.29-7.26 (m, 1H), 4.57 (s, 2H), 3.80 (t, J=7.0 Hz, 2H), 2.93 (t, J=7.0 Hz, 2H); 13C (125 MHz, CDCl3) δ 161.3, 139.3, 138.2, 135.0, 130.1, 128.7, 128.4, 127.7, 127.6, 126.3, 73.0, 68.5, 27.3.

reactant | 2-(2-phenyloxazol-4-yl)-ethanol | C1(=CC=CC=C1)C=1OC=C(N1)CCO | C11H11NO2
reactant | NaH | 5.28 mmol, 215 mg | [H-].[Na+]
reactant | benzyl bromide | 3.96 mmol, 0.47 mL, 677 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 0.26 mmol, 96 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-(2-Benzyloxyethyl)-2-phenyloxazole | 690 mg, 93% | C(C1=CC=CC=C1)OCCC=1N=C(OC1)C1=CC=CC=C1 | C18H17NO2
